US07786129B2
3-Ethyl-3-{4-[4-(3-fluorophenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one monohydro-chloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-di-hydro-2H-indol-2-one and 1-(3-fluorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-di-hydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(3-fluorophenyl)-piperazine | FC=1C=C(C=CC1)N1CCNCC1 | C10H13FN2
product | 3-Ethyl-3-{4-[4-(3-fluorophenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one monohydro-chloride | Cl.C(C)C1(C(NC2=CC=CC=C12)=O)CCCCN1CCN(CC1)C1=CC(=CC=C1)F | InChI=1S/C24H30FN3O.ClH/c1-2-24(21-10-3-4-11-22(21)26-23(24)29)12-5-6-13-27-14-16-28(17-15-27)20-9-7-8-19(25)18-20;/h3-4,7-11,18H,2,5-6,12-17H2,1H3,(H,26,29);1H
